US09167821B2
tert-Butyl 4-(4-(5-[2-(cyclohexylmethoxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl)piperidine-1-carboxylate (X-a-7)
To a solution of tert-butyl 4-{4-[(hydroxyimino)methyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (2.90 g) and 1-(cyclohexylmethoxy)-2-vinylbenzene (2.40 g) in ethyl acetate (300 ml) were added, at room temperature, potassium hydrogencarbonate (4.60 g) and N-chlorosuccinimide (1.48 g), and then one drop of water. The reaction mixture was stirred at 60° C. for 6 h, then admixed with ethyl acetate and water and extracted with ethyl acetate. The organic extracts were dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by chromatography. This gave tert-butyl 4-(4-{5-[2-(cyclohexylmethoxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidine-1-carboxylate (3.40 g).

reactant | tert-butyl 4-{4-[(hydroxyimino)methyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | 2.90 g | ON=CC=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H21N3O3S
reactant | 1-(cyclohexylmethoxy)-2-vinylbenzene | 2.40 g | C1(CCCCC1)COC1=C(C=CC=C1)C=C | C15H20O
reactant | potassium hydrogencarbonate | 4.60 g | C(O)([O-])=O.[K+]
reactant | N-chlorosuccinimide | 1.48 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | water | one drop | O | H2O
solvent | water | O | H2O
product | tert-Butyl 4-(4-(5-[2-(cyclohexylmethoxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl)piperidine-1-carboxylate | C1(CCCCC1)COC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C29H39N3O4S
